US09388172B2
In a 10 mL pear-shaped flask, 4,4,4-trifluoro-3-[3-(3-trifluoromethyl-phenyl)-piperidin-1-ylmethyl]-butyric acid ethyl ester (130 mg, 316 μmol) and NaOH (237 μl, 474 μmol) were combined with ethanol (6 ml) to give a colorless solution. The reaction mixture was heated at 90° C. and stirred for 30 min. The reaction mixture was concentrated and treated with a saturated solution of NaH2PO4 (20 ml) and extracted with ethyl acetate (2×30 ml). The combined organics were washed with brine and H2O, dried over MgSO4, filtered and concentrated to give 120 mg (99%) of 4,4,4-trifluoro-3-[3-(3-trifluoromethyl-phenyl)-piperidin-1-ylmethyl]-butyric acid as a waxy solid. MH+=384.

reactant | 4,4,4-trifluoro-3-[3-(3-trifluoromethyl-phenyl)-piperidin-1-ylmethyl]-butyric acid ethyl ester | 316 μmol, 130 mg | C(C)OC(CC(C(F)(F)F)CN1CC(CCC1)C1=CC(=CC=C1)C(F)(F)F)=O | C19H23F6NO2
reactant | NaOH | 474 μmol, 237 μl | [OH-].[Na+]
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 4,4,4-trifluoro-3-[3-(3-trifluoromethyl-phenyl)-piperidin-1-ylmethyl]-butyric acid | 120 mg, 99% | FC(C(CC(=O)O)CN1CC(CCC1)C1=CC(=CC=C1)C(F)(F)F)(F)F | C17H19F6NO2
